US05639770
A reaction was conducted in the same manner as in Example 1, by using 4-hydroxy-6-ethoxycarbonyl-2-(α-bromoacetyl)pyridine and 3,4-diethoxythiobenzamide. Then, hydrolysis was conducted in the same manner as in Example 2 to obtain 2-(3,4-diethoxyphenyl)-4-(4-hydroxy-6-carboxy-2-pyridyl)thiazole.

reactant | 4-hydroxy-6-ethoxycarbonyl-2-(α-bromoacetyl)pyridine | OC1=CC(=NC(=C1)C(=O)OCC)C(CBr)=O | C10H10BrNO4
reactant | 3,4-diethoxythiobenzamide | C(C)OC=1C=C(C(=S)N)C=CC1OCC | C11H15NO2S
product | 2-(3,4-diethoxyphenyl)-4-(4-hydroxy-6-carboxy-2-pyridyl)thiazole | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC(=C1)O)C(=O)O | C19H18N2O5S
